US07612084B2
5-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(2-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}ethoxy)phenyl]ethyl}amino)ethyl]benzene-1,3-diol
(3R)-3-[2-(benzyloxy)-5-{2-[4-(2-{[(2R)-2-[3,5-bis(benzyloxy)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl]amino}ethyl)phenoxy]ethyl}phenyl]-N,N-diisopropyl-3-phenylpropan-1-amine (Preparation 43, 346 mg, 0.30 mmol) was dissolved in methanol (30 ml) and ammonium formate (380 mg, 6.1 mmol) and 20% palladium hydroxide on carbon (43 mg) added. The stirred reaction was then heated at 90° C. for 2 hours. After cooling to room temperature, mixture was filtered and solvent removed in vacuo. The residue was then taken up in ethyl acetate (50 ml) and saturated aqueous sodium hydrogen carbonate (50 ml). The organics were separated, washed with brine then dried (magnesium sulphate) and the solvent removed in vacuo to yield the title compound as a yellow glass, 174 mg.

reactant | (3R)-3-[2-(benzyloxy)-5-{2-[4-(2-{[(2R)-2-[3,5-bis(benzyloxy)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl]amino}ethyl)phenoxy]ethyl}phenyl]-N,N-diisopropyl-3-phenylpropan-1-amine | 0.30 mmol, 346 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCOC1=CC=C(C=C1)CCNC[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C66H82N2O5Si
reactant | ammonium formate | 6.1 mmol, 380 mg | C(=O)[O-].[NH4+]
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 43 mg | [OH-].[OH-].[Pd+2]
product | 5-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(2-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}ethoxy)phenyl]ethyl}amino)ethyl]benzene-1,3-diol | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCC1=CC=C(C=C1)OCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)C=1C=C(C=C(C1)O)O | C45H64N2O5Si
